US06184398B2
Preparation of 1α-(tert-butyldimethylsilyloxy)-3βhydroxy-20(S)-(3-hydroxy-3-methylbutylthio)pregna-5,7,16-triene
To a solution of 1α-(tert-butyldimethylsilyloxy)-3β-hydroxy-20(S)-phenoxycarbonylthiopregna-5,7,16-triene (81.6 mg, 0.140 mmol) and 4-bromo-2-methyl-2-butanol (117 mg, 0.700 mmol) in tetrahydrofuran (1 ml) was added 1M KOH solution in methanol (1 ml), and the mixed solution was stirred at room temperature for 30 minutes, then concentrated under reduced pressure. The residue was diluted with hexane, washed with brine and dried over magnesium sulfate, and then the solvent was distilled off under reduced pressure. The resulting residue was purified by preparative thin layer chromatography (0.5 mm×2, dichloromethane:ethyl acetate=8:1, developed once) to give the title compound as a colorless oil (60.3 mg, 79%).

reactant | 1α-(tert-butyldimethylsilyloxy)-3β-hydroxy-20(S)-phenoxycarbonylthiopregna-5,7,16-triene | 0.140 mmol, 81.6 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@H](C)SC(=O)OC5=CC=CC=C5)[C@]4(CC[C@@H]3[C@@]12C)C)O | C34H48O4SSi
reactant | 4-bromo-2-methyl-2-butanol | 0.700 mmol, 117 mg | BrCCC(C)(O)C | C5H11BrO
reactant | KOH | 1M | [OH-].[K+]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | methanol | 1 ml | CO | CH4O
product | 1α-(tert-butyldimethylsilyloxy)-3βhydroxy-20(S)-(3-hydroxy-3-methylbutylthio)pregna-5,7,16-triene | 60.3 mg, 79% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@H](C)SCCC(C)(C)O)[C@]4(CC[C@@H]3[C@@]12C)C)O | C32H54O3SSi
